US05753660
4-(t-butoxycarbonyl)piperazine (3 g, 16 mmol) was suspended in 10 mL of methylene chloride and cooled in an ice/water bath. 3-Chloropropionyl chloride (2.04 g, 16 mmol) was dissolved in 10 mL of methylene chloride and added slowly, while maintaining the internal temperature below 50° C. Triethylamine (1.63 g, 16 mmol) was then added to the cold (50° C.) solution. The solution was slowly warmed to room temperature and then stirred at room temperature overnight. The reaction mixture was diluted with 150 mL of methylene chloride and washed with 5% aqueous NaHCO3 (2×100 mL), brine (2×100 mL), dried over MgSO4, filtered, concentrated and dried under vacuum to give 3.71 g of crude product. The crude material was purified by flash chromatography on silica gel eluting with ethyl acetate to give 1.85 g (41.8%) of 1-(3-chloropropionyl)-4-(t-butoxycarbonyl)piperazine as a pale yellow solid. 1H NMR (300 MHz/CDCl3): δ 1.47 (s, 9H), 2.82 (t, 2H, J=6.95 Hz), 3.40-3.46 (m, 6H), 3.60-3.63 (m, 2H), 3.84 (t, 2 H, J=6.95 Hz); mass spectrum, m/z=283.1 (M+Li); high-resolution FAB-MS calcd for C12H21N2O3Cl1 276.1240 (M+), found 276.1227.

reactant | 4-(t-butoxycarbonyl)piperazine | 16 mmol, 3 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 3-Chloropropionyl chloride | 16 mmol, 2.04 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | Triethylamine | 16 mmol, 1.63 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-chloropropionyl)-4-(t-butoxycarbonyl)piperazine | 1.85 g, 41.8% | ClCCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C12H21ClN2O3
